US06797823B1
Imidazole (680 mg), 1-bromo-3-chloropropane (0.79 ml), tetrabutylammonium iodide (10 mg), and a 3 M aqueous sodium hydroxide solution (1 ml) were dissolved in acetone (10 ml), and the solution was stirred at 50° C. for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography by development with chloroform to give an intermediate (1-(3-chloropropyl)-1H-imidazole, 525 mg).

reactant | Imidazole | 680 mg | N1C=NC=C1 | C3H4N2
reactant | 1-bromo-3-chloropropane | 0.79 ml | BrCCCCl | C3H6BrCl
reactant | sodium hydroxide | 3 M, 1 ml | [OH-].[Na+]
reactant | Water | O | H2O
catalyst | tetrabutylammonium iodide | 10 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1-(3-chloropropyl)-1H-imidazole | ClCCCN1C=NC=C1 | C6H9ClN2
